US08022062B2
2-Hydroxymethyl-3-methylpyridine:
Heat a mixture of 3-methylpicolinic acid (1.0 g, 7.3 mmol), potassium carbonate (4.1 g, 29.7 mmol), and iodomethane (4.4 g, 31.0 mmol) in acetone (35 mL) overnight under reflux. Filter, wash the residue with EtOAc, and concentrate in vacuo. Pass through a short plug of silica gel eluting with hexane/EtOAc (1:1) to provide 2-methoxycarbonyl-3-methylpyridine as a pale yellow liquid (630 mg, 57%). To a solution of 2-methoxycarbonyl-3-methylpyridine in anhydrous THF (10 mL) at 0° C., add with stirring a solution of 1M lithium aluminum hydride in THF (5 mL, 5 mmol), and continue stirring for 30 min at 0° C. Allow the mixture to warm to ambient temperature and quench cautiously with 0.5M aqueous NaOH. Heat the mixture at 60° C. for 40 min, cool to ambient temperature, extract with EtOAc, dry over anhydrous Na2SO4 and concentrate in vacuo. Purify by chromatography on silica gel eluting with hexane/EtOAc (4:3) to give the desired intermediate (90 mg, 18%).

reactant | 2-methoxycarbonyl-3-methylpyridine | COC(=O)C1=NC=CC=C1C | C8H9NO2
reactant | lithium aluminum hydride | 1M | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mmol, 5 mL | C1CCOC1 | C4H8O
product | 2-Hydroxymethyl-3-methylpyridine | 90 mg, 18% | OCC1=NC=CC=C1C | C7H9NO
